US07495007B2
Preparation of intermediate racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-1′-(2,3-dihydroxy-propyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane
To a mixture of racemic (2′R,3R,4′S)-1′-allyl-6-bromo-4′-(3-chlorophenyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane (100 mg, 0.16 mmol), N-methylmorpholine N-oxide (30 mg, 0.22 mmol) and 3 drops of water in acetone (3 mL) was added OsO4 (10 mg, 0.04 mmol). The mixture was stirred at room temperature for 1 h, then purified by Prep-HPLC to give the title compound as a white solid (40 mg, 37%).

reactant | racemic (2′R,3R,4′S)-1′-allyl-6-bromo-4′-(3-chlorophenyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 0.16 mmol, 100 mg | C(C=C)N1C(C2(C(CC1=O)C1=CC(=CC=C1)Cl)C(NC1=CC(=CC=C12)Br)=O)C1(CC1)C.COC(C)[Si](C)(C)C
reactant | N-methylmorpholine N-oxide | 0.22 mmol, 30 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 3 mL | CC(=O)C | C3H6O
catalyst | water | 3 drops | O | H2O
catalyst | OsO4 | 0.04 mmol, 10 mg | O=[Os](=O)(=O)=O
product | racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-1′-(2,3-dihydroxy-propyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 40 mg, 37% | BrC1=CC=C2C(=C1)NC(C21C(N(C(CC1C1=CC(=CC=C1)Cl)=O)CC(CO)O)C1(CC1)C)=O.COC(C)[Si](C)(C)C | InChI=1S/C25H26BrClN2O4.C6H16OSi/c1-24(7-8-24)22-25(18-6-5-15(26)10-20(18)28-23(25)33)19(14-3-2-4-16(27)9-14)11-21(32)29(22)12-17(31)13-30;1-6(7-2)8(3,4)5/h2-6,9-10,17,19,22,30-31H,7-8,11-13H2,1H3,(H,28,33);6H,1-5H3
